US07109209B2
To a solution of ethyl 7-chloro-3-[2-(cyclopentylamino)-4-pyrimidinyl]-2-(4-fluorophenyl)pyrazolo[1,5-a]pyridine-6-carboxylate (90 mg, 0.19 mmol) in tetrahydrofuran (1 mL) was added dimethylzinc (281 μL 2.0 M in toluene, 0.56 mmol) and tetrakis(triphenylphosphine)palladium (21 mg, 0.018 mmol). The reaction mixture was stirred at 60° C. for 16 hours. The reaction mixture was quenched with ice water then extracted with ethyl acetate. The organic layer was washed with water and brine, then dried over magnesium sulfate. Filtration and concentration, followed by flash chromatography (49:1 dichloromethane:methanol) provided ethyl 3-[2-(cyclopentylamino)-4-pyrimidinyl]-2-(4-fluorophenyl)-7-methylpyrazolo[1,5-α]pyridine-6-carboxylate (40 mg, 45%). 1H NMR (300 MHz, CDCl3) δ 8.34 (d1H), 8.11 (d, 1H), 7.91 (d, 1H), 7.70 (m, 2H), 7.19 (t, 2H), 6.36 (d, 1H), 5.33 (br, 1H), 4.47 (q, 2H), 4.38 (m, 1H), 3.26 (s, 3H), 2.12 (m, 2H), 1.83–1.43 (m, 9H); MS m/z 460 (M+1).

reactant | ethyl 7-chloro-3-[2-(cyclopentylamino)-4-pyrimidinyl]-2-(4-fluorophenyl)pyrazolo[1,5-a]pyridine-6-carboxylate | 0.19 mmol, 90 mg | ClC1=C(C=CC=2N1N=C(C2C2=NC(=NC=C2)NC2CCCC2)C2=CC=C(C=C2)F)C(=O)OCC | C25H23ClFN5O2
reactant | dimethylzinc | 0.56 mmol, 2.0 M, 281 μL | C[Zn]C
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium | 0.018 mmol, 21 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | ethyl 3-[2-(cyclopentylamino)-4-pyrimidinyl]-2-(4-fluorophenyl)-7-methylpyrazolo[1,5-α]pyridine-6-carboxylate | 40 mg, 45% | C1(CCCC1)NC1=NC=CC(=N1)C=1C(=NN2C1C=CC(=C2C)C(=O)OCC)C2=CC=C(C=C2)F | C26H26FN5O2
